US04535086
22.6 of 1,2,2,5,5-pentamethylcyclohexanol are dissolved in 280 ml of benzene and, after the addition of 100 mg of p-toluenesulphonic acid, the mixture is boiled on a water separator for 7 hours. After cooling the solution, some solid sodium carbonate is added thereto, the mixture is filtered and the filtrate is evaporated at normal pressure. The residue is distilled in a water-jet vacuum. There are obtained 15.8 g of 1,3,3,6,6-pentamethylcyclohexen as a colorless liquid, b.p. 56°-57° C./17 mm.

reactant | 1,2,2,5,5-pentamethylcyclohexanol | CC1(C(CCC(C1)(C)C)(C)C)O | C11H22O
reactant | p-toluenesulphonic acid | 100 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | benzene | 280 ml | C1=CC=CC=C1 | C6H6
product | 1,3,3,6,6-pentamethylcyclohexen | 15.8 g | CC1=CC(CCC1(C)C)(C)C | C11H20
